US08071592B2
1-[2-((3S,4S)-3-{[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-fluoro-2(1H)-quinolinone Dihydrochloride
A solution of 1-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone (60 mg; 0.2 mmol) and 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) (32 mg, 0.2 mmol) in methanol (1 mL), DCM (3 mL) was stirred at room temperature overnight. Sodium triacetoxyborohydride (85 mg; 0.4 mmol) was added and the mixture was stirred at room temperature for 1 hour. The reaction was evaporated and chromatographed on silica gel, eluting with 0-10% methanol-DCM-1% NH4OH to give an oil. The oil was treated with 1M HCl in Et2O to give the title compound (50 mg) as a hydrochloride salt.

reactant | 1-{2-[(3S,4S)-3-(aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-fluoro-2(1H)-quinolinone | 0.2 mmol, 60 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)F)=O | C16H20FN3O2
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | Sodium triacetoxyborohydride | 0.4 mmol, 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | methanol | 1 mL | CO | CH4O
solvent | Et2O | CCOCC | C4H10O
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[2-((3S,4S)-3-{[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]methyl}-4-hydroxy-1-pyrrolidinyl)ethyl]-7-fluoro-2(1H)-quinolinone Dihydrochloride | 50 mg | Cl.Cl.O1CCOC=2C=NC(=CC21)CNC[C@H]2CN(C[C@H]2O)CCN2C(C=CC1=CC=C(C=C21)F)=O | InChI=1S/C24H27FN4O4.2ClH/c25-18-3-1-16-2-4-24(31)29(20(16)9-18)6-5-28-14-17(21(30)15-28)11-26-12-19-10-22-23(13-27-19)33-8-7-32-22;;/h1-4,9-10,13,17,21,26,30H,5-8,11-12,14-15H2;2*1H/t17-,21+;;/m0../s1
